US08877968B2
8-1-2 6-Ethyl-7,8-dihydro-6H-imidazo[1,5-c]pyrimidin-5-one
To 500 mg (3.6 mmol) of 5,6,7,8-tetrahydro-5-oxoimidazo[1,5-c]pyrimidine dissolved in 5 mL of DMF are added cautiously at room temperature 173 mg (4.32 mmol) of sodium hydride. The reaction medium is stirred for 1 hour at room temperature, and 0.35 mL (4.32 mmol) of iodoethane is then added dropwise. The reaction medium is stirred for 2 hours at room temperature and the solvents are then evaporated off. The residue is treated with 1N NaHCO3 solution and extracted with chloroform. The combined organic phases are dried with MgSO4, filtered and evaporated. The oil obtained is used directly in the following step.

reactant | 5,6,7,8-tetrahydro-5-oxoimidazo[1,5-c]pyrimidine | 3.6 mmol, 500 mg | O=C1NCCC=2N1C=NC2 | C6H7N3O
reactant | sodium hydride | 4.32 mmol, 173 mg | [H-].[Na+]
reactant | iodoethane | 4.32 mmol, 0.35 mL | ICC | C2H5I
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 6-Ethyl-7,8-dihydro-6H-imidazo[1,5-c]pyrimidin-5-one | C(C)N1C(N2C(CC1)=CN=C2)=O | C8H11N3O
